US04405818
In a manner similar to the procedure of Example I, phenol is alkylated with an isopropanol alkylating agent in the presence of an amorphous aluminosilicate alkylation catalyst. Using reaction conditions approximately identical to those of the Example I alklation procedure, an alkylation product containing phenol and isopropylphenol is produced.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isopropanol | C(C)(C)O | C3H8O
product | isopropylphenol | C(C)(C)C1=C(C=CC=C1)O | C9H12O
